US06518265B1
N-Triphenylmethyl-4-piperidinemethanol
To a suspension of 10.6 g of lithium aluminium hydride in 300 ml of dried tetrahydrofuran, a solution of 112 g of ethyl N-triphenylmethyl-4-piperidine-carboxylate in 400 ml of dried tetrahydrofuran was added dropwise under ice-cooling, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was added dropwise with a mixture of tetrahydrofuran and 10% aqueous sodium hydroxide solution under ice-cooling. An insoluble matter was filtered off and washed with tetrahydrofuran. The filtrates were combined and concentrated to give a colorless solid. The colorless solid was washed with methanol to give 84.2 g of colorless crystals. Recrystallization from methanol gave colorless crystals having the melting point of from 92 to 99.5° C.

reactant | lithium aluminium hydride | 10.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl N-triphenylmethyl-4-piperidine-carboxylate | 112 g | C1(=CC=CC=C1)C(N1CCC(CC1)C(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-Triphenylmethyl-4-piperidinemethanol | 84.2 g | C1(=CC=CC=C1)C(N1CCC(CC1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO
